US05939560
Imidazole (84 mg, 1.24 mmol) was added to a solution of BocIleProNH2 in dry pyridine (10 cm3), under a nitrogen atmosphere. The solution was cooled to -35° C., before the dropwise addition of POCl3 (0.25 cm3, 2.48 mmol). The reaction was stirred at -30° C. to -20° C. for 60 min. The solution was then evaporated and the crude residue subjected to column chromatography (silica gel) to yield 180 mg (94%) of 2-(S)-cyano-1-[N-(t-butoxycarbonyl)isoleucyl]pyrrolidine as a colourless oil.

reactant | Imidazole | 1.24 mmol, 84 mg | N1C=NC=C1 | C3H4N2
reactant | BocIleProNH2 | N([C@@H]([C@@H](C)CC)C(=O)N1[C@H](C(=O)N)CCC1)C(=O)OC(C)(C)C | C16H29N3O4
reactant | POCl3 | 2.48 mmol, 0.25 cm3 | O=P(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 10 cm3 | N1=CC=CC=C1 | C5H5N
product | 2-(S)-cyano-1-[N-(t-butoxycarbonyl)isoleucyl]pyrrolidine | 180 mg, 94% | C(#N)[C@H]1N(CCC1)C([C@@H](NC(=O)OC(C)(C)C)[C@@H](C)CC)=O | C16H27N3O3
